US06716878B1
STEP A: (1(S)-tert-Butyl-2-oxo-3-pyridin-2-yl-propyl)carbamic Acid tert-butyl Ester
The reaction was carried out under argon in flame dried apparatus. n-BuLi (1.6 M in hexanes, 11.3 mL, 18.1 mmol) was added dropwise to a cooled (−40° C.) solution of 2-picoline (1.64 mL, 16.6 mmol) in THF (30 mL). When addition was complete the solution was stirred at −40° C. for 1 hour before cooling to −78° C. A solution of 2(S)-tert-butoxycarbonylamino-3,3-dimethyl-butyric acid pentafluorophenyl ester (3.00 g, 7.6 mmol) in THF (30 mL) was added via a cannula, maintaining the reaction temperature below −65° C. After stirring for 1 hour at −78° C. saturated NH4Cl solution (10 mL) was added and the reaction mixture was allowed to warm to room temperature before it was partitioned between EtOAc (200 mL) and saturated NH4Cl solution (200 mL). The organic extract was washed with water (200 mL) and brine (200 mL), dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatography (SiO2, 25% Et2O in hexanes) to give the title product as a bright yellow solid (1.01 g, 44%).

reactant | n-BuLi | 18.1 mmol, 1.6 M, 11.3 mL | [Li]CCCC
reactant | 2-picoline | 16.6 mmol, 1.64 mL | N1=C(C=CC=C1)C | C6H7N
reactant | 2(S)-tert-butoxycarbonylamino-3,3-dimethyl-butyric acid pentafluorophenyl ester | 7.6 mmol, 3.00 g | FC1=C(C(=C(C(=C1OC([C@H](C(C)(C)C)NC(=O)OC(C)(C)C)=O)F)F)F)F | C17H20F5NO4
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (1(S)-tert-Butyl-2-oxo-3-pyridin-2-yl-propyl)carbamic Acid tert-butyl Ester | 1.01 g, 44% | C(C)(C)(C)OC(N[C@H](C(CC1=NC=CC=C1)=O)C(C)(C)C)=O | C17H26N2O3
